US03986860
Ethyl 4-benzyloxymethyl-4-methyl-1,3-dioxolan-2-carboxylate
3-Benzyloxy-2-methylpropane-1,2-diol (19.6 grams), ethyl diethoxyacetate (17.6 grams) and boron trifluoride etherate (2 milliliters) were heated together with stirring in a distillation apparatus. Heating was continued until ca 9.0 grams ethanol had been collected. Chloroform (100 milliliters) was added to the cooled residue and the solution obtained was washed first with 5% aqueous potassium carbonate solution and then with water. The solution was dried (MgSO4) and the solvent was removed under reduced pressure. The residue was purified by fractional distillation followed by chromatography on silica gel eluting with toluene and then 5% ether in toluene. The desired product was obtained as an oil Rf (CHCl3) 0.39.

reactant | 3-Benzyloxy-2-methylpropane-1,2-diol | 19.6 grams | C(C1=CC=CC=C1)OCC(CO)(O)C | C11H16O3
reactant | ethyl diethoxyacetate | 17.6 grams | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | boron trifluoride etherate | 2 milliliters | B(F)(F)F.CCOCC
solvent | ethanol | ca 9.0 grams | C(C)O | C2H6O
product | Ethyl 4-benzyloxymethyl-4-methyl-1,3-dioxolan-2-carboxylate | C(C1=CC=CC=C1)OCC1(OC(OC1)C(=O)OCC)C | C15H20O5
